2148-01-21 09:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo man well known to MICU service, recurrent encephalopathy, with
   ESLD due to ETOH and hep C.  Found unresponsive on floor last night
   with ?aspiration.  Transferred to MICU where he was  intubated for
   airway protection.  NGT for lactulose q1h.
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   acidophilus
   Mg Oxide
   lactulose
   furosemide
   rifaxamin
   reglan
   aldactone
   cipro
   omeprazole
   nadalol
   iloprost
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-21**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 104 (77 - 115) bpm
   BP: 144/91(101) {121/68(81) - 144/91(101)} mmHg
   RR: 18 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             378 mL
   PO:
             TF:
   IVF:
   378 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    191 mL
   Urine:
   191 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 913 (913 - 913) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 17
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 14.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   93 K/uL
   169 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.8 mEq/L
   17 mg/dL
   110 mEq/L
   135 mEq/L
   25.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2148-1-21**]  01:30 AM
   WBC
   7.3
   Hct
   25.2
   Plt
   93
   Cr
   1.0
   Glucose
   169
   Other labs: PT / PTT / INR:21.2/47.5/2.0, ALT / AST:39/83, Alk Phos / T
   Bili:169/3.3, LDH:351 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 .H/O HEPATIC ENCEPHALOPATHY:  recurrent encephalopathy, continue
   lactulose at high doses.
   Respiratory failure:  Breathing well on PSV, but poor MS.   [**Name13 (STitle) **] attempt
   later today.
   Low urine output:  check bladder pressure, if high can do therapeutic
   paracentesis
   Cirrhosis:  On cipro for SBP prophylaxis
   Anemia:  chronic guaiac+ stool
   thrombocytopenia
   hypothryoid
   pulm HTN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-1-21**] 01:44 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2148-01-24 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2148-1-23**] - [**2148-1-24**]:
   - nutrition c/s completed, patient having good calorie intake
   - RUQ u/s final report still pending
   - rpt urine sent bc black colored
 PICC LINE - START [**2148-1-23**] 12:30 PM
   double lumen
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2148-1-22**] 08:28 PM
   Metronidazole - [**2148-1-22**] 10:00 PM
   Cefipime - [**2148-1-23**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-24**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 63 (55 - 95) bpm
   BP: 78/40(48) {78/40(48) - 114/76(81)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,698 mL
                                                                    868 mL
   PO:
                                                                  1,560 mL
             TF:
   IVF:
                                                                  2,188 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,472 mL
                                                                    265 mL
   Urine:
                                                                    622 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
                                                                    650 mL
                                                                    100 mL
   Balance:
                                                                  3,226 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 695 (695 - 695) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 14.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   7.2 g/dL
   84 mg/dL
   0.9 mg/dL
   16 mEq/L
   4.3 mEq/L
   30 mg/dL
   123 mEq/L
   141 mEq/L
   22.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2148-1-21**]  02:57 PM
                             [**2148-1-21**]  08:15 PM
                             [**2148-1-22**]  02:43 AM
                             [**2148-1-22**]  06:50 AM
                             [**2148-1-22**]  03:08 PM
                             [**2148-1-22**]  07:41 PM
                             [**2148-1-23**]  02:56 AM
                             [**2148-1-23**]  10:07 AM
                             [**2148-1-23**]  06:30 PM
                             [**2148-1-24**]  03:07 AM
   WBC
   12.9
   16.9
   10.6
   9.3
   Hct
   24.3
   24.5
   23.0
   22.6
   Plt
   72
   75
   62
   70
   Cr
   1.6
   1.3
   1.2
   1.0
   1.0
   0.9
   0.9
   1.0
   0.9
   TCO2
   20
   Glucose
   115
   159
   134
   132
   90
   77
   71
   120
   84
   Other labs: PT / PTT / INR:31.1/56.6/3.2, ALT / AST:27/52, Alk Phos / T
   Bili:116/4.1, Lactic Acid:2.8 mmol/L, Albumin:2.5 g/dL, LDH:351 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 TACHYCARDIA, OTHER
 DIARRHEA
 SKULL FRACTURE
 .H/O HEPATIC ENCEPHALOPATHY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2148-1-23**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: